US09340547B2
a) tert-Butyl (2S)-1-oxo-1-(2-(tetrahydro-2H-pyran-3-ylcarbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate
Anhydrous triethylamine (600 μl, 4.31 mmols) was added to a solution of tetrahydro-2H-pyran-3-amine.HCl (600 mg, 4.36 mmols) in toluene (10 ml) and it was stirred at room temperature for 30 min. A solution of (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate (900 mg, 2.90 mmols) in toluene (36 ml) and a 2M solution of trimethylaluminium in toluene (7 ml, 14 mmols) were added. The solution obtained was stirred at 80° C. for 2 h. Water (70 ml) and a 0.5M sodium tartrate solution (35 ml) were added. It was extracted with ethylacetate. The combined organic layers were washed with water and brine. It was dried, filtered and concentrated in vacuum. The title compound was obtained (750 mg, 68%).

reactant | triethylamine | 4.31 mmols, 600 μl | C(C)N(CC)CC | C6H15N
reactant | tetrahydro-2H-pyran-3-amine | O1CC(CCC1)N | C5H11NO
reactant | HCl | 4.36 mmols, 600 mg | Cl | ClH
reactant | (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 2.90 mmols, 900 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)NN1C(=CC=C1)C(=O)OC)C | C14H21N3O5
reactant | trimethylaluminium | C[Al](C)C
reactant | sodium tartrate | 0.5M, 35 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 36 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 14 mmols, 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 70 ml | O | H2O
product | tert-Butyl (2S)-1-oxo-1-(2-(tetrahydro-2H-pyran-3-ylcarbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate | O=C([C@H](C)NC(OC(C)(C)C)=O)NN1C(=CC=C1)C(NC1COCCC1)=O | C18H28N4O5
